US04362876
Preparation of 2,4-Dihydroxyquinoline
A 200 ml three neck flask, equipped as described previously was charged with 16.3 g isatoic anhydride, 9.9 g methyl cyanoacetate, 8.3 g anhydrous potassium carbonate (molecular weight 138.2), and 16 g DMF. The reaction mixture was agitated at 28° to 30° C. for 1 hr. There was a slow evolution of gas during this period. The temperature was then gradually raised to 90° C. over a period of 90 minutes and kept at 90° C. for an additional 15 minutes. The gas evolution, which became strong and steady at the elevated temperature, gradually came to a stop at the end of the heating period. The reaction mixture, while still hot, was then dissolved in a charge of 60 ml of water and transferred into a 300 ml autoclave; an additional 20 ml portion of water was used to wash the flask. A 12 g charge of sodium hydroxide (molecular weight 40) pellets was added: the autoclave was closed, and heated at 135° to 140° C. with constant agitation for four hours. The desired product was isolated as described in Example 1. The yield was 12.93 g pure 2,4-dihydroxyquinoline (m.p. 353°-355° C.), 80.23 percent of theory based on isatoic anhydride.

reactant | isatoic anhydride | 16.3 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | methyl cyanoacetate | 9.9 g | C(#N)CC(=O)OC | C4H5NO2
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 16 g | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | water | 60 ml | O | H2O
product | 2,4-Dihydroxyquinoline | OC1=NC2=CC=CC=C2C(=C1)O | C9H7NO2
